* Example of transient analysis
V1 1 0 10
R1 1 2 10
L1 2 3 1m        ; no initial condition is equivalent to ic=0
C1 3 0 1u ic=-10 ; capacitor with initial condition
.tran 1u 1m
.plot v(C1) v(L1) i(L1) v(2) v(1,2)